US08975417B2
Step 23.1: 5-iodo-3-methylpyridin-2-ol
Sodium nitrite (0.708 g, 10.25 mmol) was added to a mixture of 5-iodo-3-methyl-pyridin-2-ylamine (2 g, 8.55 mmol) and H2SO4 (12 mL) at 0° C. The reaction mixture was stirred 15 min at 60° C., allowed to cool down, and poured onto crushed ice. Boric acid (1.057 g, 17.09 mmol) was added and the solution was quickly heated to 100° C. The reaction mixture was cooled down and neutralized with a saturated aq. NH4OH solution. The suspension was filtered to afford the crude title product (1.67 g, 7.11 mmol, 83% yield) as a brown solid. tR: 2.85 min (HPLC 1); tR: 0.62 min (LC-MS 2); ESI-MS: 236 [M+H]+ (LC-MS 2).

reactant | Sodium nitrite | 10.25 mmol, 0.708 g | N(=O)[O-].[Na+]
reactant | 5-iodo-3-methyl-pyridin-2-ylamine | 8.55 mmol, 2 g | IC=1C=C(C(=NC1)N)C | C6H7IN2
reactant | H2SO4 | 12 mL | OS(=O)(=O)O | H2O4S
reactant | Boric acid | 17.09 mmol, 1.057 g | B(O)(O)O | BH3O3
reactant | NH4OH | [NH4+].[OH-]
product | 5-iodo-3-methylpyridin-2-ol | 7.11 mmol, 1.67 g, 83% yield | IC=1C=C(C(=NC1)O)C | C6H6INO
